### PR TITLE
Move, rename Measure.compProd lemmas

### PR DESCRIPTION
**Pull request by RemyDegenne**
And add `kernel.snd_compProd_prodMkLeft`, `kernel.fst_comp`, `kernel.snd_comp`.

### CODE REVIEW

File: TestingLowerBounds/MeasureCompProd.lean [hunk 1]
```diff
@@ -32,6 +32,42 @@ namespace ProbabilityTheory
...
+  rw [snd_apply' _ _ hs, compProd_apply, comp_apply' _ _ _ hs]
+  · rfl
+  · exact measurable_snd hs
+
+lemma kernel.compProd_prodMkLeft_eq_comp {γ : Type*} {_ : MeasurableSpace γ}
+    (κ : kernel α β) [IsSFiniteKernel κ] (η : kernel β γ) [IsSFiniteKernel η] :
+    κ ⊗ₖ (prodMkLeft α η) = (deterministic id measurable_id ×ₖ η) ∘ₖ κ := by
+  ext a s hs
+  rw [comp_eq_snd_compProd, compProd_apply _ _ _ hs, snd_apply' _ _ hs, compProd_apply]
+  swap; · exact measurable_snd hs
```
Comment (LorenzoLuccioli) [inline TestingLowerBounds/MeasureCompProd.lean:48]:
```suggestion
  swap; exact measurable_snd hs
```

Comment (RemyDegenne) [reply TestingLowerBounds/MeasureCompProd.lean:48]: Funny that you suggest that. I almost commented the reverse on some of your code, before deciding that did not matter much.
I'll keep the dot, to clearly show that I focus on one goal and close it.

Comment (LorenzoLuccioli) [reply TestingLowerBounds/MeasureCompProd.lean:48]: Ok sorry, I thought it was just something forgotten there.

**Review by LorenzoLuccioli — APPROVED** [review]
